US04517195
2-(2-Chlorobenzoyl)-1-methylamino-5-methylpyrrole
A solution containing [2-(2-chlorobenzoyl)-1H-pyrrol-1-yl]-methyl-carbamic acid, ethyl ester (29.4 g, 91 mmol) and sodium hydroxide (11 g, 275 mmol) in 50% aqueous ethanol was heated under reflux for 16 hours. The excess ethanol was evaporated and the solution was adjusted to pH 7 with 10% HCl. The resultant slurry was extracted with three 100 ml portions of DCM, dried (MgSO4), filtered, and evaporated to give 22 g of solid. This solid was charcoaled and recrystallized from ether-hexane to give 21 g (93%) of powder, m.p. 107°-108°.

reactant | [2-(2-chlorobenzoyl)-1H-pyrrol-1-yl]-methyl-carbamic acid, ethyl ester | 91 mmol, 29.4 g | ClC1=C(C(=O)C=2N(C=CC2)N(C(OCC)=O)C)C=CC=C1 | C15H15ClN2O3
reactant | sodium hydroxide | 275 mmol, 11 g | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 2-(2-Chlorobenzoyl)-1-methylamino-5-methylpyrrole | 22 g | ClC1=C(C(=O)C=2N(C(=CC2)C)NC)C=CC=C1 | C13H13ClN2O
